US09371317B2
To a solution of 2-(1H-imidazol-1-yl)isonicotinic acid (1.00 g, 5.29 mmol), in DMF (41 mL) at room temperature, was added HOBt.H2O (891 mg, 5.82 mmol), EDCI.HCl (1.11 g, 5.82 mmol), 4-amino-5-(2-amino-2-methylpropoxy)-1H-benzo[c][1,2,6]thiadiazine 2,2-dioxide hydrochloride (1.70 g, 5.29 mmol) and triethylamine (1.54 mL, 11.1 mmol). The reaction was heated to 50° C. for one hour, and upon completion was cooled to room temperature, filtered and the filtrate was purified by HPLC (10-90% acetonitrile in water), then the purified product was washed in boiling ethanol for thirty minutes, then cooled to room temperature. The solid was collected by vacuum filtration, sodium carbonate (178 mg) in water (50 mL) was added and the mixture was heated to 60° C. until in solution, then was cooled to 0° C. and neutralized with hydrochloric acid (1N). The white solid was collected by vacuum filtration and dried under vacuum at 50° C. (295 mg). Sodium carbonate (87.3 mg) in water (7 mL) was added to the white solid and the mixture was heated to 60° C. until in solution. The warm solution was filtered, cooled to room temperature, and neutralized with hydrochloric acid (1N). The white solid was collected by vacuum filtration and dried under vacuum at 50° C. to yield N-(1-((4-amino-2,2-dioxido-1H-benzo[c][1,2,6]thiadiazin-5-yl)oxy)-2-methylpropan-2-yl)-2-(1H-imidazol-1-yl)isonicotinamide as a white solid (171 mg, 7% yield). 1H NMR (DMSO-d6, 400 MHz): δ 1.50 (s, 6H), 4.41 (s, 2H), 6.62 (d, J=8.0 Hz, 1H), 6.79 (d, J=8.0 Hz, 1H), 7.14 (s, 1H), 7.47 (t, J=8.4 Hz, 1H), 7.63 (dd, J=6.0 Hz, 1H), 7.81 (s, 1H), 8.00 (d, J=8.0 Hz, 1H), 8.47 (s, 1H), 8.58 (m, 3H), 11.00 (s, 1H). MS 456 (MH+).

reactant | 2-(1H-imidazol-1-yl)isonicotinic acid | 5.29 mmol, 1.00 g | N1(C=NC=C1)C=1C=C(C(=O)O)C=CN1 | C9H7N3O2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 5.82 mmol, 891 mg | O | H2O
reactant | EDCI.HCl | 5.82 mmol, 1.11 g | CCN=C=NCCCN(C)C.Cl
reactant | 4-amino-5-(2-amino-2-methylpropoxy)-1H-benzo[c][1,2,6]thiadiazine 2,2-dioxide hydrochloride | 5.29 mmol, 1.70 g | Cl.NC=1C2=C(NS(N1)(=O)=O)C=CC=C2OCC(C)(C)N
reactant | triethylamine | 11.1 mmol, 1.54 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 41 mL | CN(C)C=O | C3H7NO
product | N-(1-((4-amino-2,2-dioxido-1H-benzo[c][1,2,6]thiadiazin-5-yl)oxy)-2-methylpropan-2-yl)-2-(1H-imidazol-1-yl)isonicotinamide | 171 mg, 7% yield | NC=1C2=C(NS(N1)(=O)=O)C=CC=C2OCC(C)(C)NC(C2=CC(=NC=C2)N2C=NC=C2)=O | C20H21N7O4S
